US07067520B2
A mixture comprising 460 mg of 4-picolylamine, 430 mg of triethylamine and 1 ml of acetonitrile was dropwise added to 950 mg of 7-chloro-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile and 20 ml of acetonitrile under cooling with ice, followed by stirring for about 1 hour. After completion of the reaction, about 80 ml of water was added thereto, and the precipitated crystals were collected by filtration, washed with water and dried to obtain crude crystals. The crude crystals were purified by silica gel column chromatography to obtain 970 mg of 7-(4-pyridylmethyl)amino-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile (compound No. 3) having a melting point of from 153 to 154° C.

reactant | 4-picolylamine | 460 mg | N1=CC=C(C=C1)CN | C6H8N2
reactant | triethylamine | 430 mg | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 1 ml | C(C)#N | C2H3N
reactant | 7-chloro-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile | 950 mg | ClC1=C(C(=NC=2N1N=CC2)SC)C#N | C8H5ClN4S
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | about 80 ml | O | H2O
product | 7-(4-pyridylmethyl)amino-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile | 970 mg | N1=CC=C(C=C1)CNC1=C(C(=NC=2N1N=CC2)SC)C#N | C14H12N6S
